US05541317
4-Nitrobenzyl (1R,5S,6S)-6-[1(R)-t-butyldimethylsilyloxyethyl]-1-methyl-2-[2-(4-nitrobenzyloxycarbonyl)aminoethylthio]-1-carbapen-2-em-3-carboxylate
Following a procedure similar to that described in Example 19(c), but using 4-nitrobenzyl (1R,5S,6S)-6-[1(R)-t-butyldimethylsilyloxyethyl]-1-methyl-2-phenylsulfonyl-1-carbapen-2-em-3-carboxylate (prepared as described in Preparation 46) and 2-(4-nitrobenzyloxycarbonyl)aminoethylmercaptan as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained in a yield of 86%.

reactant | 4-nitrobenzyl (1R,5S,6S)-6-[1(R)-t-butyldimethylsilyloxyethyl]-1-methyl-2-phenylsulfonyl-1-carbapen-2-em-3-carboxylate | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S(=O)(=O)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H36N2O8SSi
reactant | 2-(4-nitrobenzyloxycarbonyl)aminoethylmercaptan | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS)C=C1 | C10H12N2O4S
product | 4-Nitrobenzyl (1R,5S,6S)-6-[1(R)-t-butyldimethylsilyloxyethyl]-1-methyl-2-[2-(4-nitrobenzyloxycarbonyl)aminoethylthio]-1-carbapen-2-em-3-carboxylate | yield of 86% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)SCCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C33H42N4O10SSi
